US05736557
(7-Chloroquinolin-4-yl)-[3-(7-chloroquinolin-4-yl-aminomethyl)-benzyl]-amine
3.96 g of 4,7-dichloroquinoline and 1.36 g of α,α'-diamino-m-xylene are reacted at 140° C. in 4 g of phenol under argon for 24 hours. After cooling the mixture is treated with 20 ml of ethyl acetate and 30 ml of water and adjusted to pH 1 by adding a small amount of concentrated hydrochloric acid. The product which thereby crystallizes out is filtered off under suction and triturated in 200 ml of 2N NaOH and 50 ml of ethyl acetate. The separated crystalline amine is suspended in 80 ml of 0.5N HCl and brought into solution on a steam bath by the addition of ethanol (75 ml). 3.14 g of the dihydrochloride crystallize out upon cooling, m.p.:>250° C.

reactant | 4,7-dichloroquinoline | 3.96 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | α,α'-diamino-m-xylene | 1.36 g | NCC1=CC(=CC=C1)CN | C8H12N2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | phenol | 4 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | 30 ml | O | H2O
product | (7-Chloroquinolin-4-yl)-[3-(7-chloroquinolin-4-yl-aminomethyl)-benzyl]-amine | ClC1=CC=C2C(=CC=NC2=C1)NCC1=CC(=CC=C1)C(N)C1=CC=NC2=CC(=CC=C12)Cl | C26H20Cl2N4
